US04279899
6.4 g of α-cyano-β-(3,4,5-trimethoxyphenyl)-propionaldehyde dimethylacetal, 3 g of β-hydroxyethylguanidine sulfate and 1.1 g of sodium methylate in 100 ml of ethanol were refluxed for 5 hours. The ethanol was then distilled off and the residue was dissolved in 100 ml of water. On extracting the solution with chloroform, 3.4 g (50% of theory) of 2-(β-hydroxyethylamino)-4-amino-5-(3,4,5-trimethoxybenzyl)-pyrimidine were obtained, melting at 146° C. after recrystallization from isopropanol.

reactant | α-cyano-β-(3,4,5-trimethoxyphenyl)-propionaldehyde dimethylacetal | 6.4 g | COC(C(CC1=CC(=C(C(=C1)OC)OC)OC)C#N)OC | C15H21NO5
reactant | β-hydroxyethylguanidine sulfate | 3 g | S(=O)(=O)(O)O.OCCNC(=N)N
reactant | sodium methylate | 1.1 g | C[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(β-hydroxyethylamino)-4-amino-5-(3,4,5-trimethoxybenzyl)-pyrimidine | 3.4 g, 50% | OCCNC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)OC | C16H22N4O4
